Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[H:10][H:12].[N:5](=[C:6]([H:13])[H:14])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9],28.945863260563698
[C:1](/[C:2](=[C:3](/[C@@:4]1([H:12])[O:5][C:6]1([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4](=[O:5])[C:6]1([H:13])[H:14])([H:7])([H:8])[H:9],67.77518782385789
[O:1]([C:3]([C@:4]([C:2][H:7])([O:5][H:11])[H:10])([H:8])[H:9])[H:6]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6],16.819153259108788
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]3([H:15])[H:16])[N:7]12>>[C:1]([C:2][H:10])([N:7]1[C@@:3]2([H:11])[C:4]([H:12])([H:13])[C@:5]1([H:14])[C:6]2([H:15])[H:16])([H:8])[H:9],104.275840824481
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[N:6]([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:4]=[O:5])[H:10])([H:7])([H:8])[H:9].[C:3]([N:6]([H:14])[H:15])([H:11])([H:12])[H:13],92.94181047316259
[C:1]([C:3](=[C:2]([H:10])[H:11])[C+:4]=[C:5]([O-:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],32.760441571433006
[O-:1][C:2](=[C:3]([N+:4]#[C:5][H:9])[N:6]=[O:7])[H:8]>>[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8],32.09231686740148
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[C-:3]#[O+:4].[O:1]=[C:2]([C:5](=[O:6])[H:8])[H:7],35.5602938530076
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1]1([H:8])[C:2](=[O+:3][C-:4]([H:9])[H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13],102.391665535181
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[C:2]1[C@:3]2([H:8])[C:4]([H:9])([H:10])[N:5]=[C:6]([H:11])[N:7]12,58.916104327990205
[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[C:2](=[C:3](/[O:4][H:12])[H:11])(\[C:5]#[N:6])[H:9].[N:1]([H:7])([H:8])[H:10],70.0009404854854
[O:1]=[C:7]([C@:2]12[C:3]([H:8])([H:9])[O:4][C@@:5]1([H:10])[C:6]2([H:11])[H:12])[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],58.5348415628673
[C:1]1([H:8])([H:10])[O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6][N:7]1[H:9]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],37.79986978588791
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]1=[C:5]([H:15])[H:16])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:14])[H:17],73.3385054781033
[C:1]1([H:7])([H:8])[C@@:2]([C:5]#[N:6])([H:10])[C:3][C:4]1([H:9])[H:11]>>[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],37.80517154395852
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N+:1]1#[C:2][C@@:3]([O:6][C-:5]([H:10])[H:11])([H:7])[C:4]1([H:8])[H:9],110.189442760299
[C:1]([C:2]([C:6](=[C:5]=[C:3]=[O:4])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],71.85088280170773
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:6](=[C:5])[H:10])[H:8])[H:7],53.7612038176292
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:1]1([H:6])([H:7])[C:2]([C:3]([H:10])([H:11])[H:12])([H:9])[C:4]1([H:13])[H:14].[O:5]([H:8])[H:15],86.40583997729321
[N:1]#[C:2][C:3]1([C:4](=[O:5])[H:8])[N:6]=[N:7]1>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],15.132310940757893
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[C:4](=[O:5])([O+:7]=[C-:6][H:10])[H:9].[N:1](=[C:2]=[O:3])[H:8],59.892505326706114
[N:1](=[C:2](/[O:3][H:8])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])\[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],26.768846171475307
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C-:2]([C:3]([H:11])([H:12])[H:13])=[O+:4][C:5](=[O:6])[H:14].[C:1]([H:7])([H:8])([H:9])[H:10],79.50762188022429
[C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:8])([H:10])[H:11].[O:1]([C:2][H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],10.559438281112804
[O:1]([C:2]([C:3]([O:4][C:5](=[N+:6]=[C-:7][H:14])[H:12])([H:10])[H:11])([H:9])[H:13])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])=[N:6][C:7]1([H:13])[H:14])[H:8],20.358459260435204
[C:1](\[C:2](=[C:3]([H:10])[H:11])[H:9])(=[C:6](\[C:5]([O:4][H:7])([H:12])[H:13])[H:14])[H:8]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14],78.0897562893838
